US03957989
2,7-BIS(4-PIPERIDINOBUTYRYL)XANTHEN-9-ONE
To a solution of 9.8 g (0.025 mole) of 2,7-bis(4-piperidinobutyryl)xanthene in 300 ml. of glacial acetic acid was added 9.8 g (0.033 mole) of sodium dichromate over 1/2 hour. The mixture was stirred for 11/2 hours, refluxed for 1 hour, then evaporated to near dryness, cooled, diluted with water and made alkaline with 28% NH4OH solution. The resulting solid was extracted with methylene chloride, chromatographed on alumina using methylene chloride as the eluant, recrystallized from heptane and dried under vacuum at 60°C. to give the desired product. M.P. 93°-95°C.

reactant | 2,7-bis(4-piperidinobutyryl)xanthene | 0.025 mole, 9.8 g | N1(CCCCC1)CCCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCCN1CCCCC1)=O | C31H40N2O3
reactant | sodium dichromate | 0.033 mole, 9.8 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,7-BIS(4-PIPERIDINOBUTYRYL)XANTHEN-9-ONE | N1(CCCCC1)CCCC(=O)C1=CC=2C(C3=CC(=CC=C3OC2C=C1)C(CCCN1CCCCC1)=O)=O | C31H38N2O4
